US07638536B2
To a solution of 1.50 g of 1-(4-ethoxycarbonyl-2-fluorophenyl)piperidine-4-carboxamide in 20 ml of THF, 2.0 ml of triethylamine and 0.9 ml of trifluoroacetic acid anhydride were added at −78° C., and the mixture was stirred at room temperature for 6 hours. The solvent was evaporated, EtOAc was added, and then the organic layer was washed with water and brine, and dried over sodium sulfate. After the evaporation of the solvent, the residue was purified by silica gel column chromatography (eluent: hexane-EtOAc=5:1˜4:1) to obtain 1.43 g of 4-(4-cyanopiperidino)-3-fluorobenzoic acid ethyl ester.

reactant | 1-(4-ethoxycarbonyl-2-fluorophenyl)piperidine-4-carboxamide | 1.50 g | C(C)OC(=O)C1=CC(=C(C=C1)N1CCC(CC1)C(=O)N)F | C15H19FN2O3
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | triethylamine | 2.0 ml | C(C)N(CC)CC | C6H15N
solvent | trifluoroacetic acid anhydride | 0.9 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
product | 4-(4-cyanopiperidino)-3-fluorobenzoic acid ethyl ester | 1.43 g | C(C)OC(C1=CC(=C(C=C1)N1CCC(CC1)C#N)F)=O | C15H17FN2O2
